US06953793B2
C. 6-Chloro-1-piperidin-4-yl-1H-indole.
To a stirred solution of 1.03 g (2.59 mmol) of 4-[5-chloro-2-(2,2-dimethoxy-ethyl)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester in 15 mL toluene was added 1.0 g (5.2 mmol) of p-toluenesulfonic acid. The reaction mixture was heated to 60° C. for 20 min, allowed to cool to room temperature and quenched with 100 mL of sat. aqueous NaHCO3 then extracted with EtOAc (3×75 mL). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to afford 590 mg (98%) of the desired product as a pink oil. MS (electrospray): exact mass calculated for C13H15ClN2, 234.09. m/z found, 235.1 [M+H]+. 1H NMR (CDCl3, 400 MHz, a mixture of amide rotamers): 7.52 (d, J=8.34 Hz, 1H), 7.38 (br s, 1H), 7.21 (d, J=3.28 Hz, 1H), 7.06 (dd, J=8.34, 1.77 Hz, 1H), 6.49 (d, J=3.28 Hz, 1H), 4.24 (m, 1H), 3.30 (m, 2H), 2.85 (dt, J=12.38, 2.53 Hz, 2H), 2.08 (m, 2H), 1.94 (m, 2H).

reactant | 4-[5-chloro-2-(2,2-dimethoxy-ethyl)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester | 2.59 mmol, 1.03 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC(=C1)Cl)CC(OC)OC | C20H31ClN2O4
reactant | p-toluenesulfonic acid | 5.2 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-1-piperidin-4-yl-1H-indole | 590 mg, 98% | ClC1=CC=C2C=CN(C2=C1)C1CCNCC1 | C13H15ClN2
